2164-11-21 10:03:00 Physician Attending Progress Note
HPI:
   74F with ESRD on HD and h/o episodes of acute pulmonary edema and
   hypoxemic respiratory failure.
   24 Hour Events:
   Overnight able to wean FiO2.  Remained on low-dose pressors in setting
   of sedation.  This morning attempting to wean sedation/pressors and
   move towards SBT.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-11-20**] 08:00 PM
   Ceftriaxone - [**2164-11-21**] 01:30 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Phenylephrine - 0.8 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2164-11-20**] 03:00 PM
   Other medications:
   ASA
   Colace
   Amiodarone
   Spiriva
   Metoprolol - held
   Insulin
   Dorzolamide
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2164-11-21**] 09:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.4
C (99.3
   HR: 65 (65 - 123) bpm
   BP: 113/53(68) {69/39(46) - 145/72(85)} mmHg
   RR: 11 (0 - 37) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 8 (8 - 16)mmHg
   Total In:
                                                                    363 mL
                                                                    321 mL
   PO:
   TF:
   IVF:
                                                                    363 mL
                                                                    321 mL
   Blood products:
   Total out:
                                                                    125 mL
                                                                      0 mL
   Urine:
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    238 mL
                                                                    321 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 99%
   ABG: 7.44/48/280/33
   Ve: 6.2 L/min
   PaO2 / FiO2: 560
   Physical Examination
   Gen:  Does not respond to voice/commands
   CV:  RRR, [**1-27**] murmur at LUSB
   Chest:  Clear anterior/posterior fields without crackles
   Abd:  s/nt/nd
   Ext:  Bilateral BKA; no upper extremity edema
   Labs / Radiology
   8.8 g/dL
   233 K/uL
   122 mg/dL
   4.7 mg/dL
   33 mEq/L
   3.8 mEq/L
   24 mg/dL
   99 mEq/L
   143 mEq/L
   30.3 %
   22.5 K/uL
        [image002.jpg]
                             [**2164-11-20**]  03:45 PM
                             [**2164-11-20**]  10:28 PM
                             [**2164-11-21**]  03:02 AM
   WBC
   29.2
   22.5
   Hct
   30.1
   30.3
   Plt
   247
   233
   Cr
   3.8
   4.7
   TropT
   1.67
   1.55
   TCO2
   34
   Glucose
   117
   122
   Other labs: PT / PTT / INR:18.3/37.9/1.7, CK / CKMB /
   Troponin-T:39//1.55, ALT / AST:13/31, Alk Phos / T Bili:92/0.4,
   Albumin:2.8 g/dL, Ca++:7.5 mg/dL, Mg++:1.6 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   74yoF with underlying comorbidities significant for ESRD on HD,
   diastolic dysfunction; admitted with suspected acute pulmonary edema.
   1.  Respiratory failure: hypercarbic/hypoxemic, suspected secondary to
   acute pulmonary edema.
   - D/c propofol.
   - Plan SBT today, suspect delayed respirtory drive given alkalosis.
   2.  Shock:  Pressor requirement most related to sedation with
   propofol.  Sepsis possible, but was not hypotensive until after
   intubation.
   - wean neo
   3.  Bacteremia/UTI: Afebrile, WBC improving; Blood cultures + from
   [**11-20**].
   - Discussing with renal regarding alternate HD access if necessary;
   likely will need to d/c line given persistent bacteremia despite > 48h
   of antibiotics.
   - Vancomycin for CNS bacteremia.
   - Klebsiella UTI from [**Hospital1 183**]; treating with ceftriaxone.
   4.  CV:  Monitor for HTN/tachycardia on SBT; might need aggressive
   control with IV antihypertensive/rate control [**Doctor Last Name **].
   -  Consider labetalol drip if needed peri-extubation.
   ICU Care
   Nutrition: holding enteral feeds for extubation
   Glycemic Control:   Insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2164-11-20**] 02:00 PM
   20 Gauge - [**2164-11-20**] 02:00 PM
   Multi Lumen - [**2164-11-20**] 06:00 PM
   Prophylaxis:
   DVT: Coumadin for afib
   Stress ulcer:  PPI
   VAP:  HOB/peridex/mouthcare
   Communication:  Will update family today.
   Code status: Full code
   Disposition : Critically ill, remains in ICU unless improvement.
   Total time spent: 35minutes CCT

2164-11-21 12:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Blood cultures from [**Hospital1 54**] turning positive for GPCs in clusters
   Tried on SBT but failed for apnea
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-11-20**] 08:00 PM
   Ceftriaxone - [**2164-11-21**] 01:30 AM
   Infusions:
   Phenylephrine - 0.8 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2164-11-20**] 03:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-11-21**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.4
C (99.3
   HR: 84 (65 - 123) bpm
   BP: 114/44(61) {69/39(46) - 145/72(85)} mmHg
   RR: 20 (0 - 37) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 8 (8 - 16)mmHg
   Total In:
                                                                    363 mL
                                                                    371 mL
   PO:
   TF:
   IVF:
                                                                    363 mL
                                                                    371 mL
   Blood products:
   Total out:
                                                                    125 mL
                                                                      0 mL
   Urine:
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    238 mL
                                                                    371 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 365 (365 - 365) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 19
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 67
   RSBI Deferred: No Spon Resp
   PIP: 5 cmH2O
   Plateau: 12 cmH2O
   SpO2: 99%
   ABG: 7.44/48/280/33/7
   Ve: 6.6 L/min
   PaO2 / FiO2: 560
   Physical Examination
   Gen: Sedated, minimally responsive
   Heart: RRR, No MRG
   Lungs: Expiratory rhonchi
   Abd: Soft, NT, ND, BS+
   Ext: Bilateral BKAs
   Labs / Radiology
   233 K/uL
   8.8 g/dL
   122 mg/dL
   4.7 mg/dL
   33 mEq/L
   3.8 mEq/L
   24 mg/dL
   99 mEq/L
   143 mEq/L
   30.3 %
   22.5 K/uL
        [image002.jpg]
                             [**2164-11-20**]  03:45 PM
                             [**2164-11-20**]  10:28 PM
                             [**2164-11-21**]  03:02 AM
   WBC
   29.2
   22.5
   Hct
   30.1
   30.3
   Plt
   247
   233
   Cr
   3.8
   4.7
   TropT
   1.67
   1.55
   TCO2
   34
   Glucose
   117
   122
   Other labs: PT / PTT / INR:18.3/37.9/1.7, CK / CKMB /
   Troponin-T:39//1.55, ALT / AST:13/31, Alk Phos / T Bili:92/0.4,
   Albumin:2.8 g/dL, Ca++:7.5 mg/dL, Mg++:1.6 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   74 yo F w/ ESRD, likely line infection and respiratory failure
   1.       Respiratory failure: No difficulty ventilating/oxygenating on
   vent overnight. Failed SBT [**1-23**] apnea. Likely flash in setting of
   sepsis.
     - Retry SBT this am and possibly extubate
   2.       Bacteremia: most likely line.
   -D/w renal team alternate access
   - vanc
   #. Elevated troponin: Initially thought to be ACS at [**Hospital1 183**] as she had
   some chest pressure but then determined to be demand ischemia in the
   setting of sepsis and tachycardia at [**Hospital1 183**]. Trops have been trending up
   slightly while here, difficult to interpret in ESRD. EKG does not
   appear ischemic.
   .
   .
   #. End stage renal disease on hemodialysis: Usually MWF got full
   dialysis yesterday. Will hold off on using this line until discussion
   w/ renal team.
   - D/w renal line change
   .
   .
   #. Diabetes mellitus-type II: continue home insulin regimen plus
   sliding scale.
   .
   #. Hypertension: Hold antihypertensives in the setting of shock
   .
   #. Hyperlipidemia: Continue home simvastatin.
   .
   #. Paroxysmal atrial fibrillation/flutter: We will continue home dose
   of amiodarone and rate control. Hold warfarin given supratherapeutic
   INR.
   .
   #. Glaucoma -  continue home medications.
   .
   #. FEN - Will assess need for TFs if unable to extubate tomorrow am
   #. PPx - No heparin given supratherapeutic INR
   #. Access - Peripheral IV's
   #. CODE - FULL CODE
   #. Communication - daughter [**Name (NI) **] [**Known lastname 488**] [**Telephone/Fax (1) 10516**]
   #. Dispo - ICU for now

2164-11-22 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2164-11-21**] 12:28 PM
 TUNNELED (HICKMAN) LINE - STOP [**2164-11-21**] 10:00 PM
   Presumed HD catheter bacteremia
   FYI: while on Amiodorone, manufacture warns against statin dose >20,
   currently on 40.
   X-plant [**Doctor First Name 458**] pulled line, sent tip for culture
   [**Hospital1 183**] micro lab [**Telephone/Fax (1) 11002**]: Urin 11//29 K. pneumonia amp/cipro/levo
   resistant.
   Blood 11/29 [**3-24**] coag (-) staph Resistant: PCN, Emycin, Cefoxitin,
   Levoflox. Senstitive: Tetra, chloram, gent, vanco, bactrim, rifampin
   [**11-19**] NGTD
   TTE shows ? small MV veggie, ? if old based on prior TTE, likely needs
   TEE
   Held coumadin and PO meds as she's still a little confused
   Weened off pressors
   Several episodes of a.fib with rates 100-120, responded well to 250cc
   bolus x2
   One episode of flash edema/desat in setting of a.fib up to 130s, got
   80mg IV lasix, 10mg IV diltiazem, 12.5mg PO metoprolol with improvement
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-11-20**] 08:00 PM
   Ceftriaxone - [**2164-11-22**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-11-22**] 12:00 AM
   Diltiazem - [**2164-11-22**] 01:00 AM
   Furosemide (Lasix) - [**2164-11-22**] 01:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-11-22**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.5
C (97.7
   HR: 101 (65 - 123) bpm
   BP: 103/35(52) {89/35(51) - 136/69(83)} mmHg
   RR: 21 (11 - 34) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,060 mL
                                                                    133 mL
   PO:
             TF:
   IVF:
                                                                  1,060 mL
                                                                    133 mL
   Blood products:
   Total out:
                                                                     38 mL
                                                                     30 mL
   Urine:
                                                                     38 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,022 mL
                                                                    103 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 365 (365 - 365) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 19
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 67
   PIP: 5 cmH2O
   Plateau: 12 cmH2O
   SpO2: 98%
   ABG: 7.40/53/58/25/5
   Ve: 6.6 L/min
   PaO2 / FiO2: 116
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   244 K/uL
   8.9 g/dL
   98 mg/dL
   6.5 mg/dL
   25 mEq/L
   3.8 mEq/L
   40 mg/dL
   100 mEq/L
   141 mEq/L
   29.2 %
   25.8 K/uL
        [image002.jpg]
                             [**2164-11-20**]  03:45 PM
                             [**2164-11-20**]  10:28 PM
                             [**2164-11-21**]  03:02 AM
                             [**2164-11-21**]  01:30 PM
                             [**2164-11-22**]  05:05 AM
   WBC
   29.2
   22.5
   25.8
   Hct
   30.1
   30.3
   29.2
   Plt
   247
   233
   244
   Cr
   3.8
   4.7
   6.5
   TropT
   1.67
   1.55
   TCO2
   34
   34
   Glucose
   117
   122
   98
   Other labs: PT / PTT / INR:34.2/33.3/3.5, CK / CKMB /
   Troponin-T:39//1.55, ALT / AST:13/31, Alk Phos / T Bili:92/0.4, Lactic
   Acid:1.3 mmol/L, Albumin:2.8 g/dL, Ca++:7.5 mg/dL, Mg++:2.3 mg/dL,
   PO4:4.7 mg/dL
   Assessment and Plan
   74 yo F w/ ESRD, likely line infection and respiratory failure
   1.       Respiratory failure: No difficulty ventilating/oxygenating on
   vent overnight. Failed SBT [**1-23**] apnea. Likely flash in setting of
   sepsis.
     - Retry SBT this am and possibly extubate
   2.       Bacteremia: most likely line.
   -D/w renal team alternate access
   - vanc
   #. Elevated troponin: Initially thought to be ACS at [**Hospital1 183**] as she had
   some chest pressure but then determined to be demand ischemia in the
   setting of sepsis and tachycardia at [**Hospital1 183**]. Trops have been trending up
   slightly while here, difficult to interpret in ESRD. EKG does not
   appear ischemic.
   .
   .
   #. End stage renal disease on hemodialysis: Usually MWF got full
   dialysis yesterday. Will hold off on using this line until discussion
   w/ renal team.
   - D/w renal line change
   .
   .
   #. Diabetes mellitus-type II: continue home insulin regimen plus
   sliding scale.
   .
   #. Hypertension: Hold antihypertensives in the setting of shock
   .
   #. Hyperlipidemia: Continue home simvastatin.
   .
   #. Paroxysmal atrial fibrillation/flutter: We will continue home dose
   of amiodarone and rate control. Hold warfarin given supratherapeutic
   INR.
   .
   #. Glaucoma -  continue home medications.
   .
   #. FEN - Will assess need for TFs if unable to extubate tomorrow am
   #. PPx - No heparin given supratherapeutic INR
   #. Access - Peripheral IV's
   #. CODE - FULL CODE
   #. Communication - daughter [**Name (NI) **] [**Known lastname 488**] [**Telephone/Fax (1) 10516**]
   #. Dispo - ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-11-20**] 02:00 PM
   Multi Lumen - [**2164-11-20**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2164-11-22 11:21:00 Physician Attending Progress Note
HPI:
    74F with ESRD admitted with supposed acute pulmonary edema requiring
   intubation; other pertinent issues include persistent CNS bacteremia
   with line infection and possible endocarditis.
   24 Hour Events:
   Extubated yesterday.  s/p HD line removal given persistently positive
   blood cultures.
   Now off pressors.
   Remains confused.
   TTE with possible thickening of the mitral valve.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-11-20**] 08:00 PM
   Ceftriaxone - [**2164-11-22**] 02:00 AM
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-11-22**] 12:00 AM
   Diltiazem - [**2164-11-22**] 01:00 AM
   Furosemide (Lasix) - [**2164-11-22**] 01:15 AM
   Medications:
   Nephrocaps
   ASA
   Colace
   Amiodarone
   Simvastatin
   Insulin sliding scale
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-11-22**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.3
C (97.3
   HR: 95 (84 - 123) bpm
   BP: 114/40(60) {89/35(51) - 136/69(83)} mmHg
   RR: 21 (15 - 34) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,060 mL
                                                                    170 mL
   PO:
             TF:
   IVF:
                                                                  1,060 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                     38 mL
                                                                     30 mL
   Urine:
                                                                     38 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,022 mL
                                                                    140 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.40/53/58/
   PaO2 / FiO2: 116
   Physical Examination
   Gen: Awake but disoriented, follows limited commands
   Chest: Clear anterior field, limited exam posteriorly
   CV: IR; [**1-27**] LUSB murmur, [**2-24**] apical murmur
   Abd: s/nt/nd
   Ext: bilateral BKA
   Labs / Radiology
   8.9 g/dL
   244 K/uL
   98 mg/dL
   6.5 mg/dL
   25 mEq/L
   3.8 mEq/L
   40 mg/dL
   100 mEq/L
   141 mEq/L
   29.2 %
   25.8 K/uL
        [image002.jpg]
                             [**2164-11-20**]  03:45 PM
                             [**2164-11-20**]  10:28 PM
                             [**2164-11-21**]  03:02 AM
                             [**2164-11-21**]  01:30 PM
                             [**2164-11-22**]  05:05 AM
   WBC
   29.2
   22.5
   25.8
   Hct
   30.1
   30.3
   29.2
   Plt
   247
   233
   244
   Cr
   3.8
   4.7
   6.5
   TropT
   1.67
   1.55
   TCO2
   34
   34
   Glucose
   117
   122
   98
   Other labs: PT / PTT / INR:34.2/33.3/3.5, CK / CKMB /
   Troponin-T:39//1.55, ALT / AST:13/31, Alk Phos / T Bili:92/0.4, Lactic
   Acid:1.3 mmol/L, Albumin:2.8 g/dL, Ca++:7.5 mg/dL, Mg++:2.3 mg/dL,
   PO4:4.7 mg/dL
   Vancomycin level: 16
   Micro:  [**11-19**]: + CNS; [**11-20**], [**11-21**]
 NGTD
   Assessment and Plan
   74yoF with ESRD and likely CNS line infection; intubated for 24h with
   pulmonary edema and hypoxemia now extubated and resolved.
   1. CNS bacteremia:  Suspect line infection.  So far, surveillance
   cultures are negative, line removed yesterday.  Some concern for
   possible endocarditis because of TTE with increased thickening of
   mitral valve.  Off pressors with line out.  WBC up slightly.
    - vancomycin for staph bacteremia; ceftriaxone for klebsiella UTI
   - Check EKG to evaluate intervals given possible endocarditis, will
   need TEE this admission but will wait until resp status is better
   - Surviellance cultures today
   2.  CV:  diastolic dysfunction, atrial fibrillation
   - restart lopressor
   - reverse anticoagulation with vitamin K
   3. Neuro:  suspect global encephalopathy secondary to infection,
   critical illness.
   - neuro exam non-focal, but given possibility of endocarditis, if she
   fails to improve would consider MRI for evaluation of septic emboli.
   4. Renal:
   - Needs temp line for HD access; awaiting negative cultures.
   - could rewire fem line for short term access; will d/w renal team
   ICU Care
   Nutrition: PO with improving mental status
   Glycemic Control:  Insulin sliding scale
   Lines:
   20 Gauge - [**2164-11-20**] 02:00 PM
   Multi Lumen - [**2164-11-20**] 06:00 PM
   Prophylaxis:
   DVT: coumadin (reversing)
   Stress ulcer:  PPI
   VAP: Not intubated
   Communication:  Update family today
   Code status: Full code
   Disposition : Transfer to floor today
   Total time spent:  35minutes

2164-11-23 08:57:00 Physician Attending Progress Note
HPI:
   74yoF recently in MICU for respiratory failure secondary to acute
   pulmonary edema; transferred to floor yesterday and had another episode
   of acute respiratory distress with increased hypoxemia, hypercarbia,
   HTN, tachcardia and intubated on the floor.  She shortly thereafter
   became hypotensive and required pressors post-intubation.
   24 Hour Events:
   Re-admitted to ICU overnight.  Had improvement in her oxygenation
   following initation of mechanical ventilation.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-11-20**] 08:00 PM
   Ceftriaxone - [**2164-11-22**] 02:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole
   Other medications:
   ASA
   Simvastatin
   Amiodarone
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2164-11-23**] 08:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 88 (79 - 100) bpm
   BP: 142/56(77) {103/43(58) - 142/58(80)} mmHg
   RR: 12 (12 - 21) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 54.5 kg (admission): 50 kg
             Total In:
                                                                    213 mL
                                                                    316 mL
   PO:
             TF:
   IVF:
                                                                    213 mL
                                                                    316 mL
   Blood products:
   Total out:
                                                                     50 mL
                                                                     35 mL
   Urine:
                                                                     50 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    163 mL
                                                                    281 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: #Overflow#
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 96%
   ABG: 7.50/34/164/25/
   Ve: 6.1 L/min
   PaO2 / FiO2: 410
   Physical Examination
   Gen: intubated/sedated
   Chest: Clear anterior fields
   CV: IR/IR; [**1-27**] LUSB; [**2-24**] apical murmurs
   Abd: s/nt/nd
   Ext: bilateral BKA
   Labs / Radiology
   8.0 g/dL
   264 K/uL
   67 mg/dL
   7.6 mg/dL
   25 mEq/L
   3.9 mEq/L
   54 mg/dL
   103 mEq/L
   144 mEq/L
   25.9 %
   26.2 K/uL
        [image002.jpg]
                             [**2164-11-20**]  03:45 PM
                             [**2164-11-20**]  10:28 PM
                             [**2164-11-21**]  03:02 AM
                             [**2164-11-21**]  01:30 PM
                             [**2164-11-22**]  05:05 AM
                             [**2164-11-22**]  11:28 PM
                             [**2164-11-23**]  02:36 AM
                             [**2164-11-23**]  04:45 AM
                             [**2164-11-23**]  05:10 AM
   WBC
   29.2
   22.5
   25.8
   22.6
   26.2
   Hct
   30.1
   30.3
   29.2
   29.5
   25.9
   Plt
   247
   233
   244
   255
   264
   Cr
   3.8
   4.7
   6.5
   7.4
   7.6
   TropT
   1.67
   1.55
   1.79
   1.93
   TCO2
   34
   34
   27
   26
   Glucose
   117
   122
   98
   118
   67
   Other labs: PT / PTT / INR:43.7/40.0/4.7, CK / CKMB /
   Troponin-T:52//1.93, ALT / AST:13/31, Alk Phos / T Bili:92/0.4,
   Differential-Neuts:94.8 %, Lymph:2.7 %, Mono:2.3 %, Eos:0.1 %, Lactic
   Acid:1.2 mmol/L, Albumin:2.8 g/dL, Ca++:7.5 mg/dL, Mg++:2.5 mg/dL,
   PO4:5.6 mg/dL
   CXR: pulmonary edema
   Micro: Bld cx ([**11-19**]): staph; all subsequent cultures negative ([**11-20**],
   2)
   Assessment and Plan
   74yoF with re-intubation and re-admission to ICU for hypoxemic and
   hypercarbic respiratory failure in setting of likely flash pulmonary
   edema.
   1.       Respiratory failure:  Plan to obtain HD line today, dialysis.
   -          Lighten sedation and assess mental status
   -          Move to SBT after dialysis
   2.       CNS bacteremia: WBC remains elevated, afebrile.  Surveillance
   cultures negative.
   -          Vancomycin with HD
   -          F/u surveillance cultures
   -          TEE while intubated
   3.       Renal:
   -       HD today after line placement; needs FFP for elevated INR prior
   to new line placement
   4.       CV: No longer hypotensive
   -          Restart lopressor, titrate up today
   -          Will need titration of captopril following extubation and
   stabilization of BP
   -          Will need to restart coumadin once INR falls
   ICU Care
   Nutrition: Holding tube feeds for possible TEE and HD line placement
   Glycemic Control:  Glucose 70-122; Insulin sliding scale
   Lines:
   Multi Lumen - [**2164-11-22**] 11:00 PM
   Arterial Line - [**2164-11-23**] 02:00 AM
   Prophylaxis:
   DVT: Supratherapeutic INR
   Stress ulcer: PPI
   VAP: HOB/peridex/mouthcare
   Communication:  Update family
   Code status: Full code
   Disposition : Critically ill, remain in ICU
   Total time spent:  35minutes CCT

2164-11-23 12:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2164-11-22**] 03:16 PM
 MULTI LUMEN - START [**2164-11-22**] 11:00 PM
 INVASIVE VENTILATION - START [**2164-11-22**] 11:00 PM
 NASAL SWAB - At [**2164-11-23**] 12:30 AM
 ARTERIAL LINE - START [**2164-11-23**] 02:00 AM
   In ICU was briefly on neo for maps in the 40s.  An A-line was placed
   and cultures drawn.  Vent weaned.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-11-20**] 08:00 PM
   Ceftriaxone - [**2164-11-23**] 09:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-11-23**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-11-23**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.4
   HR: 77 (63 - 100) bpm
   BP: 120/48(66) {103/40(55) - 142/58(80)} mmHg
   RR: 12 (12 - 19) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 54.5 kg (admission): 50 kg
   Height: 66 Inch
           Total In:
                                                                    213 mL
                                                                    908 mL
   PO:
           TF:
   IVF:
                                                                    213 mL
                                                                    434 mL
   Blood products:
   474 mL
   Total out:
                                                                     50 mL
                                                                     35 mL
   Urine:
                                                                     50 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    163 mL
                                                                    873 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: #Overflow#
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.50/34/164/25/3
   Ve: 5.7 L/min
   PaO2 / FiO2: 410
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   264 K/uL
   8.0 g/dL
   67 mg/dL
   7.6 mg/dL
   25 mEq/L
   3.9 mEq/L
   54 mg/dL
   103 mEq/L
   144 mEq/L
   25.9 %
   26.2 K/uL
        [image002.jpg]
                             [**2164-11-20**]  03:45 PM
                             [**2164-11-20**]  10:28 PM
                             [**2164-11-21**]  03:02 AM
                             [**2164-11-21**]  01:30 PM
                             [**2164-11-22**]  05:05 AM
                             [**2164-11-22**]  11:28 PM
                             [**2164-11-23**]  02:36 AM
                             [**2164-11-23**]  04:45 AM
                             [**2164-11-23**]  05:10 AM
   WBC
   29.2
   22.5
   25.8
   22.6
   26.2
   Hct
   30.1
   30.3
   29.2
   29.5
   25.9
   Plt
   247
   233
   244
   255
   264
   Cr
   3.8
   4.7
   6.5
   7.4
   7.6
   TropT
   1.67
   1.55
   1.79
   1.93
   TCO2
   34
   34
   27
   26
   Glucose
   117
   122
   98
   118
   67
   Other labs: PT / PTT / INR:39.3/42.0/4.1, CK / CKMB /
   Troponin-T:52//1.93, ALT / AST:13/31, Alk Phos / T Bili:92/0.4,
   Differential-Neuts:94.8 %, Lymph:2.7 %, Mono:2.3 %, Eos:0.1 %, Lactic
   Acid:1.2 mmol/L, Albumin:2.8 g/dL, Ca++:7.5 mg/dL, Mg++:2.5 mg/dL,
   PO4:5.6 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 BACTEREMIA
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTENSION (NOT SHOCK)
   74 yo F w/ ESRD on HD, CHF, PVD, Afib, recent septic shock on pressors
   with line infection and respiratory failure
   1. Respiratory failure: ABG showed hypercapnic respiratory failure.
   Likely volume overload in setting of awaiting HD and flash pulmonary
   edema.  Ddx includes lung or blood stream infection, MI
   - culture, cxr, trend CE.
   - Trend ABG, attempt to wean
   - will likely need HD tomorrow for volume removal.
   - Blood pressure control
   - Will attempt new arterial line for vent wean.
   .
   #. Septic shock from high-grade coag-negative Staph bacteremia and
   Klebsiella Urinary Tract Infection: HD line removed. Last growth of
   BCxs from [**11-19**]. ECHO shows question of vegetation.
   - f/u blood cxs, daily surveillance bcxs
   - on vanc for coag-negative staph bacteremia
   - on CTX for Klebsiella UTI
   - TEE now intubated
   .
   #. Demand ischemia: This is likely in the setting of sepsis, afib RVR.
   CKs flat but troponin peaked at 1.67.
   - cont. to monitor on telemetry
   - cont. ASA, BB, statin
   .
   #. End stage renal disease on hemodialysis: Last HD session was on
   [**11-20**]. Currently not overtly fluid overloaded.
   - Plan for temporary HD line tomorrow by IR (INR goal <3.5). Would not
   favor tunnelled line at this point given recent high grade bacteremia
   and need for high volumes of FFP to correct INR (IR requesting INR
   <1.5).
   - Plan for HD tomorrow.
   .
   # Hypoactive delirium: Pt currently delirious. Likely related to
   sedation medications while intubated as has not had HD since [**11-20**]. Also
   likely contributing are infection, uremia.
   - cont. to monitor MS
   - NPO for now
   - may need to give metoprolol IV for rate control
   .
   #. Diabetes mellitus-type II:
   - Continue her home insulin regimen plus sliding scale.
   .
   #. Hypertension:
   - Home metoprolol + captopril for rate and afterload reduction.
   .
   #. Hyperlipidemia:
   - Continue home simvastatin, at lower dose due to interaction with
   amiodarone.
   .
   #. Paroxysmal atrial fibrillation/flutter:
   - continue home dose of amiodarone
   - cont. metoprolol
   - holding warfarin given supratherapeutic INR (was given vitamin K
   today).
   .
   #. Glaucoma:
   - continue home regimen of eye drops
   .
   ICU Care
   Nutrition: Will need TF
   Glycemic Control: ISS
   Lines: HD line, CVL
   Prophylaxis:
   DVT: Pneumoboots, supratheraputic INR
   Stress ulcer: PPI
   VAP:  Mouth wash, daily wake, elevate HOB
   Communication:  daughter [**Name (NI) **] [**Known lastname 488**] [**Telephone/Fax (1) 10516**]
   Code status: Full code
   Disposition:   ICU

2164-11-24 07:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2164-11-23**] 03:44 PM
 EKG - At [**2164-11-24**] 01:15 AM
   New temp line placed in R groin
   Dialyzed 1500cc negative
   Discussed TEE with cardiology and they would rather do it monday after
   she is extubated
   Had an episode of hypotension overnight, EKG was normal and she was
   started on phenylephrine low dose.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2164-11-23**] 09:00 AM
   Vancomycin - [**2164-11-23**] 05:59 PM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Phenylephrine - 0.8 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-11-23**] 08:00 AM
   Metoprolol - [**2164-11-23**] 06:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-11-24**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 80 (63 - 105) bpm
   BP: 138/57(82) {84/40(55) - 154/63(93)} mmHg
   RR: 12 (11 - 15) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.5 kg (admission): 50 kg
   Height: 66 Inch
             Total In:
                                                                  1,512 mL
                                                                    159 mL
   PO:
             TF:
   IVF:
                                                                    955 mL
                                                                    159 mL
   Blood products:
                                                                    557 mL
   Total out:
                                                                  1,575 mL
                                                                    420 mL
   Urine:
                                                                     75 mL
                                                                     20 mL
   NG:
   400 mL
   Stool:
   Drains:
   Balance:
                                                                    -63 mL
                                                                   -261 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: ///33/
   Ve: 6.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   234 K/uL
   7.7 g/dL
   130 mg/dL
   3.3 mg/dL
   33 mEq/L
   3.5 mEq/L
   18 mg/dL
   101 mEq/L
   144 mEq/L
   24.9 %
   26.9 K/uL
        [image002.jpg]
                             [**2164-11-20**]  03:45 PM
                             [**2164-11-20**]  10:28 PM
                             [**2164-11-21**]  03:02 AM
                             [**2164-11-21**]  01:30 PM
                             [**2164-11-22**]  05:05 AM
                             [**2164-11-22**]  11:28 PM
                             [**2164-11-23**]  02:36 AM
                             [**2164-11-23**]  04:45 AM
                             [**2164-11-23**]  05:10 AM
                             [**2164-11-24**]  02:42 AM
   WBC
   29.2
   22.5
   25.8
   22.6
   26.2
   26.9
   Hct
   30.1
   30.3
   29.2
   29.5
   25.9
   24.9
   Plt
   247
   233
   244
   255
   264
   234
   Cr
   3.8
   4.7
   6.5
   7.4
   7.6
   3.3
   TropT
   1.67
   1.55
   1.79
   1.93
   TCO2
   34
   34
   27
   26
   Glucose
   117
   122
   98
   118
   67
   130
   Other labs: PT / PTT / INR:39.3/42.0/4.1, CK / CKMB /
   Troponin-T:52//1.93, ALT / AST:13/31, Alk Phos / T Bili:92/0.4,
   Differential-Neuts:94.8 %, Lymph:2.7 %, Mono:2.3 %, Eos:0.1 %, Lactic
   Acid:1.2 mmol/L, Albumin:2.8 g/dL, Ca++:8.0 mg/dL, Mg++:1.6 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
   74 yo F w/ ESRD on HD, CHF, PVD, Afib, recent septic shock on pressors
   with line infection and respiratory failure
   1. Respiratory failure: ABG showed hypercapnic respiratory failure.
   Likely volume overload in setting of awaiting HD and flash pulmonary
   edema.  Ddx includes lung or blood stream infection, MI
   - culture, cxr, trend CE.
   - Trend ABG, attempt to wean
   - will likely need HD tomorrow for volume removal.
   - Blood pressure control
   - Will attempt new arterial line for vent wean.
   .
   #. Septic shock from high-grade coag-negative Staph bacteremia and
   Klebsiella Urinary Tract Infection: HD line removed. Last growth of
   BCxs from [**11-19**]. ECHO shows question of vegetation.
   - f/u blood cxs, daily surveillance bcxs
   - on vanc for coag-negative staph bacteremia
   - on CTX for Klebsiella UTI
   - TEE now intubated
   .
   #. Demand ischemia: This is likely in the setting of sepsis, afib RVR.
   CKs flat but troponin peaked at 1.67.
   - cont. to monitor on telemetry
   - cont. ASA, BB, statin
   .
   #. End stage renal disease on hemodialysis: Last HD session was on
   [**11-20**]. Currently not overtly fluid overloaded.
   - Plan for temporary HD line tomorrow by IR (INR goal <3.5). Would not
   favor tunnelled line at this point given recent high grade bacteremia
   and need for high volumes of FFP to correct INR (IR requesting INR
   <1.5).
   - Plan for HD tomorrow.
   .
   # Hypoactive delirium: Pt currently delirious. Likely related to
   sedation medications while intubated as has not had HD since [**11-20**]. Also
   likely contributing are infection, uremia.
   - cont. to monitor MS
   - NPO for now
   - may need to give metoprolol IV for rate control
   .
   #. Diabetes mellitus-type II:
   - Continue her home insulin regimen plus sliding scale.
   .
   #. Hypertension:
   - Home metoprolol + captopril for rate and afterload reduction.
   .
   #. Hyperlipidemia:
   - Continue home simvastatin, at lower dose due to interaction with
   amiodarone.
   .
   #. Paroxysmal atrial fibrillation/flutter:
   - continue home dose of amiodarone
   - cont. metoprolol
   - holding warfarin given supratherapeutic INR (was given vitamin K
   today).
   .
   #. Glaucoma:
   - continue home regimen of eye drops
   .
   ICU Care
   Nutrition: Will need TF
   Glycemic Control: ISS
   Lines: HD line, CVL
   Prophylaxis:
   DVT: Pneumoboots, supratheraputic INR
   Stress ulcer: PPI
   VAP:  Mouth wash, daily wake, elevate HOB
   Communication:  daughter [**Name (NI) **] [**Known lastname 488**] [**Telephone/Fax (1) 10516**]
   Code status: Full code
   Disposition:   ICU

2164-11-24 10:05:00 Physician Attending Progress Note
HPI:
    74F with ESRD on HD; now with re-intubation secondary to acute
   pulmonary edema.
   24 Hour Events:
   Underwent dialysis yesterday; required pressors during HD.  Following
   HD she was hemodynamically stable, however overnight she developed HoTN
   again this morning and has required neo.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2164-11-23**] 09:00 AM
   Vancomycin - [**2164-11-23**] 05:59 PM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Phenylephrine - 0.4 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2164-11-23**] 06:54 PM
   Other medications:
   PPI
   ASA PR
   Simvastatin
   Amiodarone
   Insulin sliding scale
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2164-11-24**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 80 (63 - 105) bpm
   BP: 138/57(82) {84/40(55) - 154/63(93)} mmHg
   RR: 12 (11 - 15) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.5 kg (admission): 50 kg
   Height: 66 Inch
             Total In:
                                                                  1,512 mL
                                                                    205 mL
   PO:
             TF:
   IVF:
                                                                    955 mL
                                                                    205 mL
   Blood products:
                                                                    557 mL
   Total out:
                                                                  1,575 mL
                                                                    420 mL
   Urine:
                                                                     75 mL
                                                                     20 mL
   NG:
   400 mL
   Stool:
   Drains:
   Balance:
                                                                    -63 mL
                                                                   -215 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: ///33/
   Ve: 6.6 L/min
   Physical Examination
   Gen: Somnolent but opens eyes to voice
   Chest: Clear anterior fields
   CV: IR/IR; [**1-27**] LUSB, [**2-24**] apical murmur
   Abd: s/nt/nd
   Ext: bilateral BKA
   Labs / Radiology
   7.7 g/dL
   234 K/uL
   130 mg/dL
   3.3 mg/dL
   33 mEq/L
   3.5 mEq/L
   18 mg/dL
   101 mEq/L
   144 mEq/L
   24.9 %
   26.9 K/uL
        [image002.jpg]
                             [**2164-11-20**]  03:45 PM
                             [**2164-11-20**]  10:28 PM
                             [**2164-11-21**]  03:02 AM
                             [**2164-11-21**]  01:30 PM
                             [**2164-11-22**]  05:05 AM
                             [**2164-11-22**]  11:28 PM
                             [**2164-11-23**]  02:36 AM
                             [**2164-11-23**]  04:45 AM
                             [**2164-11-23**]  05:10 AM
                             [**2164-11-24**]  02:42 AM
   WBC
   29.2
   22.5
   25.8
   22.6
   26.2
   26.9
   Hct
   30.1
   30.3
   29.2
   29.5
   25.9
   24.9
   Plt
   247
   233
   244
   255
   264
   234
   Cr
   3.8
   4.7
   6.5
   7.4
   7.6
   3.3
   TropT
   1.67
   1.55
   1.79
   1.93
   TCO2
   34
   34
   27
   26
   Glucose
   117
   122
   98
   118
   67
   130
   Other labs: PT / PTT / INR:39.3/42.0/4.1, CK / CKMB /
   Troponin-T:52//1.93, ALT / AST:13/31, Alk Phos / T Bili:92/0.4,
   Differential-Neuts:94.8 %, Lymph:2.7 %, Mono:2.3 %, Eos:0.1 %, Lactic
   Acid:1.2 mmol/L, Albumin:2.8 g/dL, Ca++:8.0 mg/dL, Mg++:1.6 mg/dL,
   PO4:2.4 mg/dL
   Micro:  Blood cultures from 12/1,2,3 are no growth, HD catheter tip:
   CNS
   Assessment and Plan
   74yoF with ESRD on HD; here with CNS line infection and acute pulmonary
   edema.
   1.       Respiratory Failure: hypoxemic and hypercarbic
   -          She was alkalemic yesterday, initially apneic after changing
   to pressure-support today.  Will repeat ABG after 30 minutes of PSV.
   -          SBT today, if mental status improves will plan to extubate.
   2.        CNS bacteremia:
   -          bacteremia has resolved, but persistent WBC and low-grade
   fevers.  Concern for metastatic source with initial line infection.
   Plan TEE next week. HD catheter out, replaced with temp groin line.
   -          Continue vancomycin
   3.       Klebsiella UTI/fevers/WBC:
   -          continue ceftriaxone with UTI
   -          Check Cdiff
   4.       CV: diastolic dysfunction, afib
   -          Continue lopressor/amiodarone for rate control
   -          Mild hypotension, possibly sedation related versus
   vasodilation or hypovolemia. F/u BP post-extubation.
   5.       Renal:  s/p HD yesterday
   -          Will discuss with renal regarding HD today or Monday
   ICU Care
   Nutrition: Holding tube feeds for possible extubation
   Glycemic Control:  Insulin sliding scale
   Lines:
   Multi Lumen - [**2164-11-22**] 11:00 PM
   Arterial Line - [**2164-11-23**] 02:00 AM
   Dialysis Catheter - [**2164-11-23**] 03:44 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: PPI
   VAP: HOB/mouthcare
   Communication:  Will update family
   Code status: Full code
   Disposition : Remain in ICU critically ill
   Total time spent: 35minutes CCT

2164-11-25 08:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2164-11-24**] 01:54 PM
   Extubated
   Weened off Neo after extubation
   Some episodes of A.fib to 120s, got 10mg IV dilt x 2 with good effect
   NGT placed
   Ordered C.diff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-11-23**] 05:59 PM
   Ceftriaxone - [**2164-11-24**] 08:00 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2164-11-24**] 06:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-11-25**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 119 (81 - 126) bpm
   BP: 103/49(64) {91/42(56) - 132/58(76)} mmHg
   RR: 21 (12 - 29) insp/min
   SpO2: 90%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 52.4 kg (admission): 50 kg
   Height: 66 Inch
             Total In:
                                                                    520 mL
                                                                     51 mL
   PO:
             TF:
   IVF:
                                                                    420 mL
                                                                     51 mL
   Blood products:
   Total out:
                                                                    463 mL
                                                                      8 mL
   Urine:
                                                                     63 mL
                                                                      8 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                     57 mL
                                                                     43 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 35%
   SpO2: 90%
   ABG: 7.43/53/134/31/9
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic,
   Cardiovascular: (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   )
   Abdominal: Soft, non-distended, mildly tender.  No rebound or guarding.
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, Bilateral BKA
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   220 K/uL
   8.0 g/dL
   115 mg/dL
   5.1 mg/dL
   31 mEq/L
   3.7 mEq/L
   31 mg/dL
   99 mEq/L
   144 mEq/L
   27.2 %
   28.2 K/uL
        [image002.jpg]
                             [**2164-11-22**]  05:05 AM
                             [**2164-11-22**]  11:28 PM
                             [**2164-11-23**]  02:36 AM
                             [**2164-11-23**]  04:45 AM
                             [**2164-11-23**]  05:10 AM
                             [**2164-11-24**]  02:42 AM
                             [**2164-11-24**]  12:17 PM
                             [**2164-11-24**]  05:19 PM
                             [**2164-11-25**]  03:58 AM
                             [**2164-11-25**]  04:26 AM
   WBC
   25.8
   22.6
   26.2
   26.9
   28.2
   Hct
   29.2
   29.5
   25.9
   24.9
   27.2
   Plt
   244
   255
   264
   234
   220
   Cr
   6.5
   7.4
   7.6
   3.3
   5.1
   TropT
   1.79
   1.93
   TCO2
   27
   26
   38
   30
   36
   Glucose
   98
   118
   67
   130
   117
   150
   110
   115
   Other labs: PT / PTT / INR:19.5/31.5/1.8, CK / CKMB /
   Troponin-T:52//1.93, ALT / AST:13/31, Alk Phos / T Bili:92/0.4,
   Differential-Neuts:94.8 %, Lymph:2.7 %, Mono:2.3 %, Eos:0.1 %, Lactic
   Acid:1.2 mmol/L, Albumin:2.8 g/dL, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.7 mg/dL
   Micro: FECES POSITIVE FOR C. DIFFICILE TOXIN BY EIA.
[**2164-11-21**] 10:31 pm CATHETER TIP-IV      Source: R IJ.
   WOUND CULTURE (Preliminary):
         STAPHYLOCOCCUS, COAGULASE NEGATIVE
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 BACTEREMIA
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTENSION (NOT SHOCK)
   74 yo F w/ ESRD on HD, CHF, PVD, Afib, recent septic shock on pressors
   with line infection and c. diff
   #. Respiratory failure: Respiratory status remains tenuous following
   extubation.  She is at high risk for repeat flashing/hypercarbic
   respriatour failure.
   - Metoprolol/amlodipine for rate/BP control given Hx of flash w/ afib.
   Titrate to HR < 100.
   - consider nitro/labetolol gtt prn
   - standing tylenol for pain and fever control given tachypnea
   .
   #Bacteremia: Cultures cleared, cath tip positive.  Vanc trough
   therapeutic.  Back pain has resolved
   - Vanc QHD, dose by levels
   - f/u blood cultures
   - D/C ceftriaxone
   - TEE tomorow
   .
   # C. diff: Likely cause of persistant high WBC.  Lactate mildly
   elevated at 2.5
   - IV flagyl and PO vancomycin
   - will check KUB to r/o toxin megacolin.
   - consider [**Doctor First Name 458**] consult if worsening although patient unlikely to be a
   surgical candidate.
   .
   #Hypotension: Occurs with sedation + afib.
   - Metoprolol and amiodarone for Afib control
   - Neo if needed
   .
   #. End stage renal disease on hemodialysis: Dialysed yesterday through
   temp fem line.
   - likely HC on monday
   - appreciate renal recs.
   - Phos binders
   .
   #. Diabetes mellitus-type II:  currently well controlled
   - Continue her home insulin regimen plus sliding scale.
   .
   #. Hyperlipidemia:
   - Continue home simvastatin, at lower dose due to interaction with
   amiodarone.
   .
   #. Paroxysmal atrial fibrillation/flutter:
   - Recheck INR monday
   - continue home dose of amiodarone
   - cont. metoprolol
   - heparin gtt
   .
   #. Glaucoma:
   - continue home regimen of eye drops
   .
   ICU Care
   Nutrition: Will start TF once Abd issues stable
   Glycemic Control: ISS
   Lines:
   Multi Lumen - [**2164-11-22**] 11:00 PM
   Arterial Line - [**2164-11-23**] 02:00 AM
   Dialysis Catheter - [**2164-11-23**] 03:44 PM
   Prophylaxis:
   DVT: Pneumoboots, heparin GTT
   Stress ulcer: PPI
   VAP:  Mouth wash, daily wake, elevate HOB
   Communication:  daughter [**Name (NI) **] [**Known lastname 488**] [**Telephone/Fax (1) 10516**]
   Code status: Full code
   Disposition:   ICU

2164-11-25 09:36:00 Physician Attending Progress Note
CC: Hypoxemic resp failure, afib with [**Name (NI) **]
   Pt seen, examined, discussed with MICU team. I agree with his/her note
   above including findings, assessment and plan. Please see his/her note
   for details.
   HPI:
    74yoF with ESRD on HD; admitted with hypercarbic/hypoxemic respiratory
   failure in setting of likely acute pulmonary edema; also with CNS
   bacteremia.
   24 Hour Events:
   Extubated yesterday.  Periodic [**Name (NI) **] overnight requiring IV diltiazem.
   This morning is less responsive and more tachypneic with relatively
   stable oxygenation and stable ABG.  Found to be cdiff positive
   yesterday, started on flagyl.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-11-23**] 05:59 PM
   Ceftriaxone - [**2164-11-24**] 08:00 AM
   Other ICU medications:
   Diltiazem - [**2164-11-24**] 06:15 PM
   Other medications:
   PPI
   ASA
   Simvastatin
   Ceftriaxone
   Insulin sliding scale
   Amiodarone PO
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to obtain
   Flowsheet Data as of  [**2164-11-25**] 09:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.3
   HR: 114 (81 - 126) bpm
   BP: 104/48(63) {91/42(56) - 132/58(76)} mmHg
   RR: 26 (20 - 29) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 52.4 kg (admission): 50 kg
   Height: 66 Inch
             Total In:
                                                                    520 mL
                                                                     56 mL
   PO:
             TF:
   IVF:
                                                                    420 mL
                                                                     56 mL
   Blood products:
   Total out:
                                                                    463 mL
                                                                      8 mL
   Urine:
                                                                     63 mL
                                                                      8 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                     57 mL
                                                                     48 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 305 (299 - 305) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: 7.47/40/60/31/4
   Ve: 9.3 L/min
   PaO2 / FiO2: 171
   Physical Examination
   Gen: Somnolent, difficult to awaken, does not follow commands
   Chest: Clear anterior and posterior fields
   CV: tachy, IR; [**1-27**] LUSB; [**2-24**] apex
   Abd: tender epigastrium
   Ext: bilateral BKA
   Labs / Radiology
   8.0 g/dL
   220 K/uL
   137 mg/dL
   5.1 mg/dL
   31 mEq/L
   3.7 mEq/L
   31 mg/dL
   99 mEq/L
   144 mEq/L
   27.2 %
   28.2 K/uL
        [image002.jpg]
                             [**2164-11-22**]  11:28 PM
                             [**2164-11-23**]  02:36 AM
                             [**2164-11-23**]  04:45 AM
                             [**2164-11-23**]  05:10 AM
                             [**2164-11-24**]  02:42 AM
                             [**2164-11-24**]  12:17 PM
                             [**2164-11-24**]  05:19 PM
                             [**2164-11-25**]  03:58 AM
                             [**2164-11-25**]  04:26 AM
                             [**2164-11-25**]  08:29 AM
   WBC
   22.6
   26.2
   26.9
   28.2
   Hct
   29.5
   25.9
   24.9
   27.2
   Plt
   255
   264
   234
   220
   Cr
   7.4
   7.6
   3.3
   5.1
   TropT
   1.79
   1.93
   TCO2
   27
   26
   38
   30
   36
   30
   Glucose
   118
   67
   130
   117
   150
   110
   115
   137
   Other labs: PT / PTT / INR:19.5/31.5/1.8, CK / CKMB /
   Troponin-T:52//1.93, ALT / AST:13/31, Alk Phos / T Bili:92/0.4,
   Differential-Neuts:94.8 %, Lymph:2.7 %, Mono:2.3 %, Eos:0.1 %, Lactic
   Acid:1.2 mmol/L, Albumin:2.8 g/dL, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.7 mg/dL.
   Assessment and Plan
   74yoF with ESRD; extubated yesterday after flash pulmonary edema in
   setting of afib [**Year (4 digits) **], HTN; with CNS bacteremia from line infection; now
   with cdiff colitis.
   1.       Hypoxemia: Increased O2 and some increased WOB this morning.
   Suspect non-pulmonary etiology given clear lung exam, versus recurrent
   acute pulmonary edema.
   -          Aim for better afib [**Year (4 digits) **] control today
   -          Treat HTN/BP; titrate metoprolol PO and IV prn. If
   difficulty controlling HR and BP, would add labetolol drip.
   -          If Afib elevated without increase in BP, would start IV
   amiodarone for short term.
   -          CXR
   2.       Cdiff:
   -          add PO vancomycin; continue flagyl IV
   -          If worsening abdominal exam/sepsis, increasing lactate;
   would obtain abdominal CT for evaluation of toxic megacolon or surgical
   disease
   3.       CNS Bacteremia: surveillance cultures negative
   -          continue vancomycin IV, dosed after HD
   -          TEE tomorrow to evaluate for endocarditis
   4.       Renal:  HD by temp line
   -          HD tomorrow
   5.       CV: afib
   -          restart heparin with INR < 2.0
   Remainder of plan per resident progress note
   ICU Care
   Nutrition: If oxygenation and hemodynamics improve today, would start
   tube feeds; currently tenuous and might require re-intubation.
   Glycemic Control:  Glucose well controlled; on insulin sliding scale
   Lines:
   Multi Lumen - [**2164-11-22**] 11:00 PM
   Arterial Line - [**2164-11-23**] 02:00 AM
   Dialysis Catheter - [**2164-11-23**] 03:44 PM
   Prophylaxis:
   DVT: restarting heparin drip today (INR 1.8)
   Stress ulcer:  PPI
   VAP:  Not intubated
   Code status: Full code
   Disposition : Critically ill, remains in ICU
   Total time spent: 35minutes CCT

2164-11-26 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   C. diff (+) started PO Vanc/IV flag.  Abd exam and KUB reassuring
   against megacolon.  Lactate 2.5
   Started tube feeds
   Hemodynamics better with NSR; required occasional low-dose Neo o/n in
   AFib.  Increased metoprolol to QID
   NPO/heparin off p MN for ? TEE
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-11-23**] 05:59 PM
   Ceftriaxone - [**2164-11-25**] 08:00 AM
   Metronidazole - [**2164-11-26**] 01:00 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-11-25**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-11-26**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.1
   HR: 87 (66 - 125) bpm
   BP: 119/56(73) {90/38(60) - 134/63(81)} mmHg
   RR: 30 (20 - 36) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 54 kg (admission): 50 kg
   Height: 66 Inch
             Total In:
                                                                    736 mL
                                                                    425 mL
   PO:
             TF:
                                                                    138 mL
                                                                      2 mL
   IVF:
                                                                    599 mL
                                                                    304 mL
   Blood products:
   Total out:
                                                                     28 mL
                                                                      0 mL
   Urine:
                                                                     28 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    708 mL
                                                                    425 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.54/34/86/27/6
   PaO2 / FiO2: 215
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   244 K/uL
   8.5 g/dL
   217 mg/dL
   6.5 mg/dL
   27 mEq/L
   3.9 mEq/L
   50 mg/dL
   100 mEq/L
   143 mEq/L
   28.9 %
   37.5 K/uL
        [image002.jpg]
                             [**2164-11-24**]  05:19 PM
                             [**2164-11-25**]  03:58 AM
                             [**2164-11-25**]  04:26 AM
                             [**2164-11-25**]  08:29 AM
                             [**2164-11-25**]  01:06 PM
                             [**2164-11-25**]  05:01 PM
                             [**2164-11-25**]  10:20 PM
                             [**2164-11-25**]  11:47 PM
                             [**2164-11-26**]  03:14 AM
                             [**2164-11-26**]  03:34 AM
   WBC
   28.2
   37.5
   Hct
   27.2
   28.9
   Plt
   220
   244
   Cr
   5.1
   6.5
   TCO2
   30
   36
   30
   30
   30
   32
   30
   30
   Glucose
   150
   110
   115
   137
   163
   147
   191
   217
   Other labs: PT / PTT / INR:26.5/74.8/2.6, CK / CKMB /
   Troponin-T:52//1.93, ALT / AST:13/31, Alk Phos / T Bili:92/0.4,
   Differential-Neuts:94.8 %, Lymph:2.7 %, Mono:2.3 %, Eos:0.1 %, Lactic
   Acid:2.0 mmol/L, Albumin:2.8 g/dL, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL,
   PO4:6.2 mg/dL
   Assessment and Plan
   74 yo F w/ ESRD on HD, CHF, PVD, Afib, recent septic shock on pressors
   with line infection and c. diff
   #. Respiratory failure: Respiratory status remains tenuous following
   extubation.  She is at high risk for repeat flashing/hypercarbic
   respriatour failure.
   - Metoprolol/amlodipine for rate/BP control given Hx of flash w/ afib.
   Titrate to HR < 100.
   - consider nitro/labetolol gtt prn
   - standing tylenol for pain and fever control given tachypnea
   .
   #Bacteremia: Cultures cleared, cath tip positive.  Vanc trough
   therapeutic.  Back pain has resolved
   - Vanc QHD, dose by levels
   - f/u blood cultures
   - D/C ceftriaxone
   - TEE tomorow
   .
   # C. diff: Likely cause of persistant high WBC.  Lactate mildly
   elevated at 2.5
   - IV flagyl and PO vancomycin
   - will check KUB to r/o toxin megacolin.
   - consider [**Doctor First Name 458**] consult if worsening although patient unlikely to be a
   surgical candidate.
   .
   #Hypotension: Occurs with sedation + afib.
   - Metoprolol and amiodarone for Afib control
   - Neo if needed
   .
   #. End stage renal disease on hemodialysis: Dialysed yesterday through
   temp fem line.
   - likely HC on monday
   - appreciate renal recs.
   - Phos binders
   .
   #. Diabetes mellitus-type II:  currently well controlled
   - Continue her home insulin regimen plus sliding scale.
   .
   #. Hyperlipidemia:
   - Continue home simvastatin, at lower dose due to interaction with
   amiodarone.
   .
   #. Paroxysmal atrial fibrillation/flutter:
   - Recheck INR monday
   - continue home dose of amiodarone
   - cont. metoprolol
   - heparin gtt
   .
   #. Glaucoma:
   - continue home regimen of eye drops
   .
   ICU Care
   Nutrition: Will start TF once Abd issues stable
   Glycemic Control: ISS
   Lines:
   Multi Lumen - [**2164-11-22**] 11:00 PM
   Arterial Line - [**2164-11-23**] 02:00 AM
   Dialysis Catheter - [**2164-11-23**] 03:44 PM
   Prophylaxis:
   DVT: Pneumoboots, heparin GTT
   Stress ulcer: PPI
   VAP:  Mouth wash, daily wake, elevate HOB
   Communication:  daughter [**Name (NI) **] [**Known lastname 488**] [**Telephone/Fax (1) 10516**]
   Code status: Full code
   Disposition:   ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-11-22**] 11:00 PM
   Arterial Line - [**2164-11-23**] 02:00 AM
   Dialysis Catheter - [**2164-11-23**] 03:44 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2164-11-26 08:53:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   HPI:
    74F with ESRD, now with CNS bacteremia, cdiff; recurrent respiratory
   failure secondary to acute pulmonary edema.
   24 Hour Events:
   Cdiff positive, started PO vanco/IV flagyl.
   Restarted tube feeds.
   Mild elevation in lactate, trended down.
   Restarted on neo overnight in response to hypotension secondary to
   atrial fibrillation.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-11-23**] 05:59 PM
   Ceftriaxone - [**2164-11-25**] 08:00 AM
   Metronidazole - [**2164-11-26**] 01:00 AM
   Vanco PO
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Insulin sliding scale
   Lopressor
   Albuterol
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2164-11-26**] 08:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.1
   HR: 87 (66 - 125) bpm
   BP: 119/56(73) {90/38(60) - 134/63(81)} mmHg
   RR: 30 (20 - 36) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 54 kg (admission): 50 kg
   Height: 66 Inch
             Total In:
                                                                    736 mL
                                                                    440 mL
   PO:
             TF:
                                                                    138 mL
                                                                      2 mL
   IVF:
                                                                    599 mL
                                                                    318 mL
   Blood products:
   Total out:
                                                                     28 mL
                                                                      0 mL
   Urine:
                                                                     28 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    708 mL
                                                                    440 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.54/34/86/27/6
   PaO2 / FiO2: 215
   Physical Examination
   Gen: Somnolent, does not respond to commands
   Chest: Clear anterior fields
   CV: IR/IR tachycardic
   Abd: Tender in left lower quadrant
   Ext: bilateral BKA
   Labs / Radiology
   8.5 g/dL
   244 K/uL
   217 mg/dL
   6.5 mg/dL
   27 mEq/L
   3.9 mEq/L
   50 mg/dL
   100 mEq/L
   143 mEq/L
   28.9 %
   37.5 K/uL
        [image002.jpg]
                             [**2164-11-24**]  05:19 PM
                             [**2164-11-25**]  03:58 AM
                             [**2164-11-25**]  04:26 AM
                             [**2164-11-25**]  08:29 AM
                             [**2164-11-25**]  01:06 PM
                             [**2164-11-25**]  05:01 PM
                             [**2164-11-25**]  10:20 PM
                             [**2164-11-25**]  11:47 PM
                             [**2164-11-26**]  03:14 AM
                             [**2164-11-26**]  03:34 AM
   WBC
   28.2
   37.5
   Hct
   27.2
   28.9
   Plt
   220
   244
   Cr
   5.1
   6.5
   TCO2
   30
   36
   30
   30
   30
   32
   30
   30
   Glucose
   150
   110
   115
   137
   163
   147
   191
   217
   Other labs: PT / PTT / INR:26.5/74.8/2.6, CK / CKMB /
   Troponin-T:52//1.93, ALT / AST:13/31, Alk Phos / T Bili:92/0.4,
   Differential-Neuts:94.8 %, Lymph:2.7 %, Mono:2.3 %, Eos:0.1 %, Lactic
   Acid:2.0 mmol/L, Albumin:2.8 g/dL, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL,
   PO4:6.2 mg/dL
   Micro: Sputum [**11-22**]: GNR
   Surviellance cultures negative
   CXR: improving pulmonary edema ([**11-26**])
   Assessment and Plan
   74yoF with ESRD, admitted with respiratory failure secondary to afib
   RVR and acute pulmonary edema; also has CNS bacteremia from line
   infection and recently diagnosis.
   1.       Septic Shock/Cdiff: new pressor requirement, worsening mental
   status, increased WBC.
   -          PO vancomycin/IV flagyl.
   -          Send blood cultures today.
   -          Obtain abd CT with contrast; likely surgical consult pending
   CT results.
   -          Repeat Lactate
   2.       CNS Bacteremia:
   -          hold on TEE for now given acuity of decline.
   -          Continue IV vancomycin for bacteremia.
   -          Surveillance cultures negative.
   3.       Afib: unclear how her tachycardia affects her hemodynamics.
   -          Will start IV amiodarone drip for better rate control.
   -          Hold metoprolol currently.
   4.       Renal:  Will discuss with renal regarding HD today
   - Likely to dialyze today, but given HoTN might not tolerate HD.
   ICU Care
   Nutrition: Hold enteral feeds given decline
   Glycemic Control:  Insulin sliding scale
   Lines:
   Multi Lumen - [**2164-11-22**] 11:00 PM
   Arterial Line - [**2164-11-23**] 02:00 AM
   Dialysis Catheter - [**2164-11-23**] 03:44 PM
   Prophylaxis:
   DVT: heparin prophylaxis
   Stress ulcer:  PPI
   VAP:  Not intubated
   Communication:  Will update familiy
   Code status: Full code
   Disposition :  Critically ill with hemodynamic instability
   Total time spent:  35minutes CCT